US07205296B2
To a solution 4,5-difluoro-2-hydroxybenzoic acid (1 g, 6 mmol, prepared by the method of Kazuto Umezv, U.S. Pat. No. 6,166,246) in pyridine (2 mL) was added acetic anhydride (0.8 mL, 7 mol) and the mixture was stirred at room temperature for 2 hr. To this added 10% HCl (10 mL) and extracted with ethyl acetate. The ethyl acetate was evaporated and the residue taken up in dichloromethane (10 mL). To this solution was added oxalyl chloride (1 mL) and few drops of dimethylformamide and stirred for 1 hr at room temperature. The solvent was removed and the acid chloride was re-dissolved in dichloromethane (10 mL) followed by the slow addition to a dichloromethane solution (10 mL) of p-nitroaniline (0.880 mL, 6.5 mmol). The reaction mixture after 2 hr showed new peak by HPLC and complete disappearance of the starting material. The dichloromethane was removed and the residue dissolved in methanol and to it added 10% aqueous NaOH solution (3 mL) and mixture stirred for 1 hr. The methanol was removed and the residue acidified and extracted with ethyl acetate. The ethyl acetate layer was dried, filtered and evaporated to yield 1.5 g (85%) of N-(4-methoxybenzyl)-4,5-difluoro-2-hydroxybenzamide as a white solid. RP-HPLC: 2.67 min; ES-MS (M+H)+=295.0; 1H-NMR (DMSO-d6) δ (ppm): 6.8 (dd, 1 H), 7.9 (dd, 1 H), 7.94 (d, 2 H), 8.24 (d, 2 H).

reactant | 4,5-difluoro-2-hydroxybenzoic acid | FC1=CC(=C(C(=O)O)C=C1F)O | C7H4F2O3
reactant | acetic anhydride | 7 mol, 0.8 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | dichloromethane | 10 mL | ClCCl | CH2Cl2
reactant | p-nitroaniline | 6.5 mmol, 0.880 mL | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | N-(4-methoxybenzyl)-4,5-difluoro-2-hydroxybenzamide | 1.5 g, 85% | COC1=CC=C(CNC(C2=C(C=C(C(=C2)F)F)O)=O)C=C1 | C15H13F2NO3
